**********************************************************************************************************
* Verilog A model - PMTJ
***********************************************************************************************************
simulator lang=spectre
global 0

include "model/mtj_subcircuit.scs"
include "../cmos/16nm-hp.pm"


parameters 
+ i_dc=0e-6
+ i_pulse_ap2p=-60e-6
+ w_pulse=50e-9
+ input_delay=-2e-9
+ temp_celsius=26.85
+ do_thermal=0
+ do_theta_windowing=0
+ do_fake_thermal=0
+ sim_pivrel=0.1
+ sim_rtol=1e-8
+ sim_atol=1e-6

+ maxstep=1e-18
+ method=traponly
+ vgate=1.0


VTRAN gate 0 vsource type=pwl wave=[0 i_dc 2n vgate 52n vgate 54n i_dc 104n i_dc]
VDD vplus 0 vsource type=dc dc=0.7
m1 (drain gate source source) nmos
r1 (vplus drain) resistor r=50k
VSS source 0 vsource type=dc dc=0.0
* mtj_ap2p (vplus vminus mz 0 0 0) mtj_subcircuit
* 	+ p_do_thermal=do_thermal
* 	+ p_do_theta_windowing=do_theta_windowing
* 	+ p_do_fake_thermal=do_fake_thermal
* 	+ p_atol=sim_atol

highVoltageOptions options highvoltage=yes bin_relref=yes

simulatorOptions options \
    temp=(temp_celsius) \
    tnom=25 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 \
    reltol=sim_rtol \


* finalTimeOP info what=oppoint where=rawfile
* modelParameter info what=models where=rawfile
* element info what=inst where=rawfile
* outputParameter info what=output where=rawfile

* primitives info what=primitives where=rawfile
* subckts info what=subckts where=rawfile
saveOptions options save=all subcktprobelvl=3 saveahdlvars=all

tran_pmtj tran stop=(300n) write="verilog-pmtj/spectre.ic" writefinal="verilog-pmtj/spectre.fc" \
annotate=status \
method=method

* exportfile="verilog-pmtj/exported_test.data"

simulator lang=spice
.meas tsw0 when v(mz)='0'